US07115611B2
In analogy to the procedures described in example 26B] and 26C], 2-[3-(2-amino-ethyl)-phenoxy]-2-methyl-propionic acid ethyl ester (example 55C]) was reacted with [4-cyclopropyl-2-(4-trifluoromethyl-phenyl)-pyrimidin-5-yl]-acetic acid (prepared from 5-chloromethyl-4-cyclopropyl-2-(4-trifluoromethyl-phenyl)-pyrimidine (example 27F]) in analogy to the sequences described in examples 26D] and 26E]) to give 2-[3-(2-{2-[4-cyclopropyl-2(4-trifluoromethyl-phenyl)-pyrimidin-5-yl]-acetylamino}-ethyl)-phenoxy]-2-methyl-propionic acid ethyl ester, which was subsequently saponified to yield the title compound as colorless solid.

reactant | 2-[3-(2-amino-ethyl)-phenoxy]-2-methyl-propionic acid ethyl ester | C(C)OC(C(C)(C)OC1=CC(=CC=C1)CCN)=O | C14H21NO3
reactant | [4-cyclopropyl-2-(4-trifluoromethyl-phenyl)-pyrimidin-5-yl]-acetic acid | C1(CC1)C1=NC(=NC=C1CC(=O)O)C1=CC=C(C=C1)C(F)(F)F | C16H13F3N2O2
reactant | 5-chloromethyl-4-cyclopropyl-2-(4-trifluoromethyl-phenyl)-pyrimidine | ClCC=1C(=NC(=NC1)C1=CC=C(C=C1)C(F)(F)F)C1CC1 | C15H12ClF3N2
product | 2-[3-(2-{2-[4-cyclopropyl-2(4-trifluoromethyl-phenyl)-pyrimidin-5-yl]-acetylamino}-ethyl)-phenoxy]-2-methyl-propionic acid ethyl ester | C(C)OC(C(C)(C)OC1=CC(=CC=C1)CCNC(CC=1C(=NC(=NC1)C1=CC=C(C=C1)C(F)(F)F)C1CC1)=O)=O | C30H32F3N3O4
